US09353081B2
[B] 6-Bromo-7-chloro-3,4-dihydro-1H-quinolin-2-one
A flame-dried 50-mL flask equipped with a magnetic stirring bar was charged with N-(4-bromo-3-chloro-phenyl)-3-chloro-propionamide (1.0 g, 3.36 mmol) and aluminium chloride (0.67 g, 5.04 mmol). In a pre-heated oil bath, the flask was heated at 135˜140° C. for 2 hr. After cooling to room temperature, the reaction mixture was treated with ice-water slowly, and extracted with EtOAc. The organic layer was washed with water and brine in sequence, dried over anhy. Na2SO4. After evaporation of the solvent, the residue was purified by recrystallization in EtOAc (2 mL) and gave title compound (0.44 g, 50% yield) as a solid. MS: 260.0 (M+H)+.

reactant | N-(4-bromo-3-chloro-phenyl)-3-chloro-propionamide | 3.36 mmol, 1.0 g | BrC1=C(C=C(C=C1)NC(CCCl)=O)Cl | C9H8BrCl2NO
reactant | aluminium chloride | 5.04 mmol, 0.67 g | [Cl-].[Al+3].[Cl-].[Cl-]
product | 6-Bromo-7-chloro-3,4-dihydro-1H-quinolin-2-one | 0.44 g, 50% yield | BrC=1C=C2CCC(NC2=CC1Cl)=O | C9H7BrClNO
